US08957203B2
Step 4: Preparation of 1,5-dichloro-4-methoxyisoquinoline
A solution of 5-chloro-4-methoxyisoquinolin-1-(2H)-one (6.4 g, 30.5 mmol) in POCl3 (45 ml) was refluxed for 18 h. The solvent was evaporated under reduced pressure and the residue was diluted with cold water. The precipitated solid was filtered, washed with water to get crude compound (4 g, 57.4%) as a light brown colored solid. 1H NMR (400 MHz, CDCl3): δ ppm 8.28-8.25 (d, J=12 Hz, 1H), 7.87 (s, 1H), 7.79-7.76 (d, J=12 Hz, 1H), 7.58-7.54 (m, 1H), 4.03 (s, 3H); MS: MS m/z 228.0 (M++1).

reactant | 5-chloro-4-methoxyisoquinolin-1-(2H)-one | 30.5 mmol, 6.4 g | ClC1=C2C(=CNC(C2=CC=C1)=O)OC | C10H8ClNO2
reactant | POCl3 | 45 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1,5-dichloro-4-methoxyisoquinoline | 4 g, 57.4% | ClC1=NC=C(C2=C(C=CC=C12)Cl)OC | C10H7Cl2NO
